US05502073
4-Bromo-2-fluorobenzaldehyde
To a stirred mixture of glacial acetic acid (88 ml.), acetic anhydride (90 g.) and 4-bromo-2-fluorotoluene (10 g.) at -10° was added concentrated sulphuric acid (12 ml.) over 20 minutes, keeping the temperature around 0°. Solid chromium trioxide (14.7 g.) was added over 40 minutes keeping the temperature below 5°. The mixture was stirred for 15 minutes. The mixture was poured onto ice (300 g.) and stirred. The mixture was extracted with ether (2×300 ml.). The organic extracts were washed with 2% sodium carbonate solution (2×100 ml.). After evaporation the crude diacetate was treated with a mixture of water (30 ml.), ethanol (30 ml.) and conc sulphuric acid (3 ml.) and the mixture refluxed for 1 hour. After cooling the product was extracted into ether, dried and evaporated. Recrystallisation from hexane yielded the title product. Nuclear magnetic resonance (NMR) was as follows. 7.6, 3H, M; 10.0, 1H, s.

reactant | acetic anhydride | 90 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-bromo-2-fluorotoluene | 10 g | BrC1=CC(=C(C=C1)C)F | C7H6BrF
reactant | sulphuric acid | 12 ml | S(O)(O)(=O)=O | H2O4S
catalyst | chromium trioxide | 14.7 g | [O-2].[O-2].[O-2].[Cr+6]
solvent | acetic acid | 88 ml | C(C)(=O)O | C2H4O2
product | 4-Bromo-2-fluorobenzaldehyde | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
